US06265411B1
A solution of oxindole (319 mg, 2.4 mmol) in THF (3 ml) was added dropwise under nitrogen to sodium hydride (58 mg, 2.4 mmol, pre-washed with hexane) and the mixture stirred for 20 minutes at ambient temperature. A solution of 4-chloro-7-(2-methoxyethoxy)quinazoline (191 mg, 0.8 mmol) in DMF (3 ml) was added and the mixture then heated at 70° C. for 1 hour. The mixture was allowed to cool and the solvent removed by evaporation. The mixture was partitioned between water and ether. The aqueous phase was separated and adjusted to pH7 with 2M hydrochloric acid. The resulting solid was collected by filtration and washed with water and ethanol. This solid was then suspended in ether, recollected by filtration, washed with ether and dried under vacuum to give 7(2-methoxyethoxy)-4-(oxindol-3-yl)quinazoline (200 mg, 75%).

reactant | oxindole | 2.4 mmol, 319 mg | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | sodium hydride | 2.4 mmol, 58 mg | [H-].[Na+]
reactant | 4-chloro-7-(2-methoxyethoxy)quinazoline | 0.8 mmol, 191 mg | ClC1=NC=NC2=CC(=CC=C12)OCCOC | C11H11ClN2O2
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 7(2-methoxyethoxy)-4-(oxindol-3-yl)quinazoline | 200 mg, 75% | COCCOC1=CC=C2C(=NC=NC2=C1)C1C(NC2=CC=CC=C12)=O | C19H17N3O3
